US06936602B1
In DMF (43.9 ml) was dissolved tert-butyl 4-[(2-ethoxyethyl)amino]butyrate (5.5 g). To the solution was added 5-bromo-2-fluorobenzaldehyde (4.4 g), followed by addition of potassium carbonate (3.6 g). The mixture was stirred at 90° C. for 60 hours and cooled to room temperature. The reaction solution was added to water, the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane/ethyl acetate=6/1→5/1) to give tert-butyl 4-(4-bromo(2-ethoxyethyl)-2-formylanilino]butyrate (2.3 g).

reactant | tert-butyl 4-[(2-ethoxyethyl)amino]butyrate | 5.5 g | C(C)OCCNCCCC(=O)OC(C)(C)C | C12H25NO3
reactant | 5-bromo-2-fluorobenzaldehyde | 4.4 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | potassium carbonate | 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 43.9 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-(4-bromo(2-ethoxyethyl)-2-formylanilino]butyrate | 2.3 g | BrC1=CC(=C(N(CCCC(=O)OC(C)(C)C)CCOCC)C=C1)C=O | C19H28BrNO4
